US05283248
1-Methyl-4-(2,3,5,6-tetrafluoro-4-nitrophenyl)piperazine(9.4 g,34.15 mmol) is suspended in triethylamine (20 ml) and treated dropwise with cyclopropylamine (2.9 ml, 41 mmol). During the addition, the temperature is maintained below +10° C. The reaction mixture is stirred at room temperature overnight, then evaporated, suspended in ether (200 ml) and sequentially washed with 1N aqueous sodium hydroxide solution (45 ml), saturated aqueous sodium chloride solution, then dried (magnesium sulfate) and evaporated. Recrystallization from n-hexane yields 9.7 g of N-cyclopropyl-2,4,5-trifluoro-3-(4-methyl-1-piperazinyl)-6-nitroaniline as orange crystals (86%): mp:75° C.; NMR (CDCl3): 0.55 (m,2H),0.75(m,2H),2.35(s,3H),2.53(m,4H),2.92(m,1H),3.40(m,4H), 6.65(s,1H).

reactant | 1-Methyl-4-(2,3,5,6-tetrafluoro-4-nitrophenyl)piperazine | 34.15 mmol, 9.4 g | CN1CCN(CC1)C1=C(C(=C(C(=C1F)F)[N+](=O)[O-])F)F | C11H11F4N3O2
reactant | cyclopropylamine | 41 mmol, 2.9 ml | C1(CC1)N | C3H7N
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | N-cyclopropyl-2,4,5-trifluoro-3-(4-methyl-1-piperazinyl)-6-nitroaniline | 9.7 g, 86% | C1(CC1)NC1=C(C(=C(C(=C1[N+](=O)[O-])F)F)N1CCN(CC1)C)F | C14H17F3N4O2
